US05750531
Step 2: 2-(2-Methyl-4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-5,6,7,8-tetrahydroquinazoline hydrochloride
After 4-fluoro-2-methylaniline(0.75 ml, 6.6 mmol) was added to a mixture solution of 4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloro-5,6,7,8-tetrahydroquinazoline(0.90 g, 3.0 mmol) and dimethylformamide(5 ml), 0.36 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoro-2-methylaniline | 6.6 mmol, 0.75 ml | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | 4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloro-5,6,7,8-tetrahydroquinazoline | 3.0 mmol, 0.90 g | C1N(CCC2=CC=CC=C12)C1=NC(=NC=2CCCCC12)Cl | C17H18ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(2-Methyl-4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-5,6,7,8-tetrahydroquinazoline hydrochloride | 0.36 g, Yield: 28% | Cl.CC1=C(C=CC(=C1)F)NC1=NC=2CCCCC2C(=N1)N1CC2=CC=CC=C2CC1 | InChI=1S/C24H25FN4.ClH/c1-16-14-19(25)10-11-21(16)26-24-27-22-9-5-4-8-20(22)23(28-24)29-13-12-17-6-2-3-7-18(17)15-29;/h2-3,6-7,10-11,14H,4-5,8-9,12-13,15H2,1H3,(H,26,27,28);1H
